** sch_path: /home/elhoang/mily_Analog_Bootcamp/analog/build/schematic/tb_ac_analysis.sch
**.subckt tb_ac_analysis VOUT
*.opin VOUT
VDD net1 GND 1.8
VSS net2 GND 0
VDIFF VIN_P VIN_N dc 0 ac 1
R1 VIN_P net3 1000k m=1
R2 VIN_N net3 1000k m=1
VCM net3 GND 0.9
x1 net1 VOUT VIN_P VIN_N net2 bootcamp_opamp
**** begin user architecture code

.save all
.control
ac dec 100 1 1G
plot db(v(vout)/(v(vin_p)-v(vin_n)))
.endc


.param mc_mm_switch=0
.param mc_pr_switch=0
.include /home/elhoang/.volare/sky130A/libs.tech/ngspice/corners/tt.spice
.include /home/elhoang/.volare/sky130A/libs.tech/ngspice/r+c/res_typical__cap_typical.spice
.include /home/elhoang/.volare/sky130A/libs.tech/ngspice/r+c/res_typical__cap_typical__lin.spice
.include /home/elhoang/.volare/sky130A/libs.tech/ngspice/corners/tt/specialized_cells.spice

**** end user architecture code
**.ends

* expanding   symbol:  bootcamp_opamp.sym # of pins=5
** sym_path: /home/elhoang/mily_Analog_Bootcamp/analog/schematics/bootcamp_opamp.sym
** sch_path: /home/elhoang/mily_Analog_Bootcamp/analog/schematics/bootcamp_opamp.sch
.subckt bootcamp_opamp VDD VOUT VIN_P VIN_N VSS
*.ipin VIN_P
*.ipin VIN_N
*.iopin VSS
*.opin VOUT
*.ipin VDD
XM1 net1 net1 VDD VDD sky130_fd_pr__pfet_01v8 L=0.5 W=10 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM2 VOUT net1 VDD VDD sky130_fd_pr__pfet_01v8 L=0.5 W=10 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM3 VOUT VOUT VDD VDD sky130_fd_pr__pfet_01v8 L=0.5 W=10 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM4 net1 VIN_P net2 VSS sky130_fd_pr__nfet_01v8 L=0.5 W=16 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM5 VOUT VIN_N net2 VSS sky130_fd_pr__nfet_01v8 L=0.5 W=16 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM6 net2 net3 VSS VSS sky130_fd_pr__nfet_01v8 L=0.8 W=4 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM7 net3 net3 VSS VSS sky130_fd_pr__nfet_01v8 L=0.8 W=4 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM8 VOUT VSS VSS VSS sky130_fd_pr__nfet_01v8 L=0.8 W=4 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XC1 VOUT VSS sky130_fd_pr__cap_mim_m3_1 W=1 L=1 MF=1 m=1
R2 net3 VDD sky130_fd_pr__res_generic_m1 W=1 L=1 m=1
.ends

.GLOBAL GND
.end
